US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 2-fluoro-3-(pyridin-3-yl)benzeneboronic acid as described in Example 1 to give 3-[2-fluoro-3-(pyridin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as an off-white solid. Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (360 MHz, DMSO) 7.62 (2H, dd, J 7 and 7), 7.85-7.96 (3H, m), 8.36 (1H, s), 8.58 (1H, d, J 8), 8.86 (1H, dd, J 5 and 1), 9.14 (1H, s), 9.33 (1H, dd, J 7 and 3); m/z (ES+) 359 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2-fluoro-3-(pyridin-3-yl)benzeneboronic acid | FC1=C(C=CC=C1C=1C=NC=CC1)B(O)O | C11H9BFNO2
product | 3-[2-fluoro-3-(pyridin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=CC=C1C=1C=NC=CC1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C18H10F4N4
